US07402698B2
1-[2-(benzylamino)-1-(3,4-dichlorophenyl)ethyl]cyclohexanol hydrochloride
In an analogous manner to Example 1, step 2 4-[1-(3,4-dichlorophenyl)-2-piperazin-1-ylethyl]-1-methylpiperidin-4-ol hydrochloride was prepared from N-benzyl-2-(3,4-dichlorophenyl)-2-(1-hydroxycyclohexyl)acetamide. HRMS: calcd for C21H25Cl2NO.HCl, 413.1080; found (ESI_FT), 378.13864.

reactant | 4-[1-(3,4-dichlorophenyl)-2-piperazin-1-ylethyl]-1-methylpiperidin-4-ol hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(CN1CCNCC1)C1(CCN(CC1)C)O
reactant | N-benzyl-2-(3,4-dichlorophenyl)-2-(1-hydroxycyclohexyl)acetamide | C(C1=CC=CC=C1)NC(C(C1(CCCCC1)O)C1=CC(=C(C=C1)Cl)Cl)=O | C21H23Cl2NO2
product | 1-[2-(benzylamino)-1-(3,4-dichlorophenyl)ethyl]cyclohexanol hydrochloride | Cl.C(C1=CC=CC=C1)NCC(C1=CC(=C(C=C1)Cl)Cl)C1(CCCCC1)O | InChI=1S/C21H25Cl2NO.ClH/c22-19-10-9-17(13-20(19)23)18(21(25)11-5-2-6-12-21)15-24-14-16-7-3-1-4-8-16;/h1,3-4,7-10,13,18,24-25H,2,5-6,11-12,14-15H2;1H
